US06537948B1
A boron trifluoride diethyl etherate is added to a mixture of 3-amino-6-chloro-2-(methoxycarbonyl)methoxypyridine, 1,2-dimethoxyethane and dichloromethane dropwise at −10° C. After mixing for 10 minutes at the same temperature, a solution of t-butyl nitrite in 1,2-dimethoxyethane is added to the reaction solution dropwise at −5° C. or lower. After mixing for 30 minutes at the same temperature, n-pentane is poured into the mixture. The lower layer of two separated layers is dissolved in acetic anhydride, and the mixture is stirred for 1 hour at 80° C. The solvent is distilled off, then, the resulted residue is subjected to silica gel chromatography to obtain 3-acetoxy-6-chloro-2-(methoxycarbonyl)methoxypyridine.

reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
reactant | 3-amino-6-chloro-2-(methoxycarbonyl)methoxypyridine | NC=1C(=NC(=CC1)Cl)OCC(=O)OC | C8H9ClN2O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | t-butyl nitrite | N(=O)OC(C)(C)C | C4H9NO2
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | n-pentane | CCCCC | C5H12
product | 3-acetoxy-6-chloro-2-(methoxycarbonyl)methoxypyridine | C(C)(=O)OC=1C(=NC(=CC1)Cl)OCC(=O)OC | C10H10ClNO5
